US07361677B2
1-Benzyloxy-4-chloromethyl-2-fluoro-benzene (CAB03018)
Thionyl chloride (5 mL) was added to solution of (4-benzyloxy-3-fluoro-phenyl)-methanol (CAB03017, 6.80 g, 29.28 mmol) in dichloromethane (50 mL). The solution was stirred for 1 h at room temperature and concentrated under reduced pressure. Then diethyl ether (100 mL) and water (20 mL) were added. The organic layer was separated, washed with conc. sodium bicarbonate solution (10 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 mL) and precipitated by addition of hexane (ca. 50 mL). The precipitate was filtered off and dried under high vacuum. Yield: 7.01 g (95%) white powder. 1H-NMR (400 MHz, CDCl3) δ=4.52 (s, 2H, —CH2Cl), 5.15 (s, 2H), 6.96 (dd, J=8.2, 8.2 Hz, 1H), 7.04-7.06 (m, 1H), 7.15 (dd, J=11.7, 2.4 Hz, 1H), 7.31-7.45 (m.5H). LRMS (FAB+): 91 (100), 215.0 (10), 250.0 (16, [M]+).

reactant | Thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (4-benzyloxy-3-fluoro-phenyl)-methanol | 29.28 mmol, 6.80 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CO)F | C14H13FO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-Benzyloxy-4-chloromethyl-2-fluoro-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCl)F | C14H12ClFO
